.title kicad schematic

.include PMOS-180nm.lib
.include NMOS-180nm.lib
.include userDiode.lib
r6 gnd net-_m7-pad2_ 4k
c1 net-_c1-pad1_ net-_c1-pad2_ 10uf
r5 net-_c1-pad1_ net-_m5-pad3_ 4k
* u1 v1 v1 output port
* u2 v1 plot_v1
m3 v1 net-_d1-pad2_ net-_m2-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
* u3 v1 plot_v1
r1 net-_m1-pad2_ v1 0k
r4 net-_c1-pad2_ v1 0k
m6 net-_m5-pad1_ net-_d1-pad1_ net-_m11-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
m2 net-_m2-pad1_ net-_d1-pad1_ net-_m11-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
v1 gnd net-_m11-pad1_ 12v
m5 net-_m5-pad1_ net-_m5-pad1_ net-_m5-pad3_ gnd CMOSN W=100u L=100u M=1
m10 output net-_m10-pad2_ net-_m10-pad3_ gnd CMOSN W=100u L=100u M=1
m8 net-_m10-pad3_ net-_m5-pad3_ net-_c1-pad1_ gnd CMOSN W=100u L=100u M=1
m9 net-_c1-pad1_ net-_c1-pad2_ net-_m7-pad2_ gnd CMOSN W=100u L=100u M=1
r7 net-_m10-pad3_ net-_m5-pad1_ 4k
m7 gnd net-_m7-pad2_ net-_c1-pad2_ gnd CMOSN W=100u L=100u M=1
m4 net-_c1-pad2_ net-_m1-pad2_ net-_m4-pad3_ gnd CMOSN W=100u L=100u M=1
r3 gnd net-_m4-pad3_ 4k
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad2_ gnd CMOSN W=100u L=100u M=1
r2 gnd net-_m1-pad1_ 4k
m14 net-_m14-pad1_ net-_d1-pad1_ net-_m11-pad1_ net-_m11-pad1_ CMOSP W=100u L=100u M=1
r11 net-_m14-pad1_ net-_m13-pad2_ 0k
m11 net-_m11-pad1_ net-_m10-pad3_ net-_m10-pad2_ gnd CMOSN W=100u L=100u M=1
r10 net-_m13-pad1_ net-_m13-pad2_ 4k
m16 net-_m14-pad1_ net-_m13-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m13-pad2_ gnd gnd CMOSN W=100u L=100u M=1
r12 net-_m14-pad1_ net-_m13-pad2_ 0k
d1 net-_d1-pad1_ net-_d1-pad2_ D1N750
m17 net-_d1-pad2_ net-_m14-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m15 net-_m14-pad1_ net-_m14-pad1_ net-_m14-pad1_ net-_m14-pad1_ CMOSP W=100u L=100u M=1
* u4 output plot_v1
m12 net-_m12-pad1_ net-_c1-pad1_ gnd net-_m11-pad1_ CMOSP W=100u L=100u M=1
r8 net-_m12-pad1_ net-_m10-pad2_ 4k
r9 output net-_m10-pad2_ 4k
.tran 0.1e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v1)
plot v(v1)
plot v(output)
.endc
.end
